US08183246B2
5-(4-Methoxyphenyl)furo[2,3-d]pyrimidin-4(3H)-one
As in the procedure described in the literature [D. Dauzonne, Tetrahedron, 1992, 3069-3080], stir a suspension of 10.1 g (47.4 mmol) 1-[(Z)-2-chloro-2-nitrovinyl]-4-methoxybenzene and 5.8 g (52.2 mmol) 4,6-dihydroxypyrimidine in 200 ml ethanol for ten minutes at 85° C. Next, slowly add 15.6 ml (15.9 g, 104.3 mmol) 1,8-diazabicyclo[5.4.0]undec-7-ene. Stir for 15 h at this temperature and then concentrate by vacuum evaporation. Take up the residue in dichloromethane and chromatograph on silica gel (solvent: dichloromethane/methanol 95:5). Mix the solid obtained with acetonitrile and then filter. 2.3 g (20% of theor.) of the target product is obtained.

reactant | 1-[(Z)-2-chloro-2-nitrovinyl]-4-methoxybenzene | 47.4 mmol, 10.1 g | Cl\C(=C/C1=CC=C(C=C1)OC)\[N+](=O)[O-] | C9H8ClNO3
reactant | 4,6-dihydroxypyrimidine | 52.2 mmol, 5.8 g | OC1=NC=NC(=C1)O | C4H4N2O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 104.3 mmol, 15.6 ml, 15.9 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 5-(4-Methoxyphenyl)furo[2,3-d]pyrimidin-4(3H)-one | COC1=CC=C(C=C1)C1=COC=2N=CNC(C21)=O | C13H10N2O3
